US08629160B2
2-Chloro-1-(thiophen-2-yl)ethanone (32.7 mg, 0.20 mmol) was added to a solution of (R)—((R)-quinuclidin-3-yl) 2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetate (diastereomer 1 of C19) (80 mg, 0.20 mmol) in EtOAc (3 ml). The reaction was stirred at r.t. overnight. Diethylether (10 ml) was added, and the precipitate was collected and dried under vacuum to obtain (R)-3-((R)-2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetoxy)-1-(2-oxo-2-(thiophen-2-yl)ethyl)-1-azoniabicyclo[2.2.2]octane chloride (101 mg, 90% yield).

reactant | 2-Chloro-1-(thiophen-2-yl)ethanone | 0.20 mmol, 32.7 mg | ClCC(=O)C=1SC=CC1 | C6H5ClOS
reactant | (R)—((R)-quinuclidin-3-yl) 2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetate | 0.20 mmol, 80 mg | S1C2=C(C(=C1)[C@H](C(=O)O[C@H]1CN3CCC1CC3)NC3=CC=CC=C3)C=CC=C2 | C23H24N2O2S
reactant | Diethylether | 10 ml | C(C)OCC | C4H10O
solvent | EtOAc | 3 ml | CCOC(=O)C | C4H8O2
product | (R)-3-((R)-2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetoxy)-1-(2-oxo-2-(thiophen-2-yl)ethyl)-1-azoniabicyclo[2.2.2]octane chloride | 101 mg, 90% yield | [Cl-].S1C2=C(C(=C1)[C@H](C(=O)O[C@H]1C[N+]3(CCC1CC3)CC(C=3SC=CC3)=O)NC3=CC=CC=C3)C=CC=C2 | InChI=1S/C29H29N2O3S2.ClH/c32-24(27-11-6-16-35-27)17-31-14-12-20(13-15-31)25(18-31)34-29(33)28(30-21-7-2-1-3-8-21)23-19-36-26-10-5-4-9-22(23)26;/h1-11,16,19-20,25,28,30H,12-15,17-18H2;1H/q+1;/p-1/t20?,25-,28+,31?;/m0./s1
